US06828460B2
cis-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetic Acid
To a round 25 ml bottomed flask containing cis-methyl [4-(2,4-dihydroxyphenyl)cyclohexyl]acetate (10 mg, 0.038 mmol) and water (4 ml) was added sodium hydroxide (5 mg, 0.13 mmol) and the solution heated to 40° C. for 1 hr. The solution was poured into a separating funnel containing ethyl acetate (15 ml) and water (10 ml). To the aqueous layer was then added aqueous hydrochloric acid (10 ml, 1.0M) and ethyl acetate (20 ml). The layers were separated and the aqueous layer extracted with ethyl acetate (3×10 ml). The combined organic extracts were washed with brine (15 ml), dried over magnesium sulfate, filtered and concentrated in vacuo affording the title compound (5 mg, 55%) as a solid. m/z (ES+) 251 (M+H+); δH(CD3OD) 1.61-1.77 (8H, m), 2.30 (1H, m), 2.49 (2H, d), 2.84 (1H, m), 6.27 (2H, m), 6.96 (1H, d).

reactant | cis-methyl [4-(2,4-dihydroxyphenyl)cyclohexyl]acetate | 0.038 mmol, 10 mg | OC1=C(C=CC(=C1)O)[C@H]1CC[C@H](CC1)CC(=O)OC | C15H20O4
reactant | sodium hydroxide | 0.13 mmol, 5 mg | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 4 ml | O | H2O
product | cis-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetic Acid | 5 mg, 55% | OC1=C(C=CC(=C1)O)[C@H]1CC[C@H](CC1)CC(=O)O | C14H18O4
